US07550495B2
Step D. 2-(1,1-difluoroethyl)-N-methyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-amine
N-[2-(1,1-Difluoroethyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]-N-methylacetamide (0.48 g, 1.37 mmol) was heated to 80° C. overnight in concentrated HCl (80 mL). The reaction mixture was cool to 0° C. and brought to slightly basic pH using NaOH solution. The compound was extracted with EtOAc (3×) and the combined organic layers were washed with brine, dried over anhydrous Na2SO4 and filtered. The solvent was concentrated giving the title compound that was used for the next step without further purification. Yield: 0.42 g (98%); MS (ESI) (M+H)+: 310.2.

reactant | N-[2-(1,1-Difluoroethyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]-N-methylacetamide | 1.37 mmol, 0.48 g | FC(C)(F)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)N(C(C)=O)C | C18H23F2N3O2
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 80 mL | Cl | ClH
product | 2-(1,1-difluoroethyl)-N-methyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-amine | FC(C)(F)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)NC | C16H21F2N3O
